*  
* Diode Model Produced by Altium Ltd  
* Date:  10-Mar-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-K213  
*  
* Parameters derived from information available in data sheet.  
* 
*                 anode-e-1
*                 |  anode-d-1
*                 |  |  anode-c-1
*                 |  |  |  anode-DP-1
*                 |  |  |  |  anode-e-1
*                 |  |  |  |  |  anode-d-2
*                 |  |  |  |  |  |  anode-g-2
*                 |  |  |  |  |  |  |  anode-c-2
*                 |  |  |  |  |  |  |  |  anode-DP-2
*                 |  |  |  |  |  |  |  |  |  anode-b-2
*                 |  |  |  |  |  |  |  |  |  |  anode-a-2
*                 |  |  |  |  |  |  |  |  |  |  |  anode-f-2
*                 |  |  |  |  |  |  |  |  |  |  |  |  common-cathode-2
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  common-cathode-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  anode-b-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  anode-a-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  anode-g-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  anode-f-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  | 
.SUBCKT HDSP_K213 1  2  3  4  5  6  7  8  9  10 11 12 13 14 15 16 17 18

DA1  16  14  dHDSP_K213
DB1  15  14  dHDSP_K213
DC1   3  14  dHDSP_K213
DD1   2  14  dHDSP_K213
DE1   1  14  dHDSP_K213
DF1  18  14  dHDSP_K213
DG1  17  14  dHDSP_K213
DDP1  4  14  dHDSP_K213

DA2  11  13  dHDSP_K213
DB2  10  13  dHDSP_K213
DC2   8  13  dHDSP_K213
DD2   6  13  dHDSP_K213
DE2   5  13  dHDSP_K213
DF2  12  13  dHDSP_K213
DG2   7  13  dHDSP_K213
DDP2  9  13  dHDSP_K213

.MODEL dHDSP_K213 D
+ (  
+     IS = 2.92097419E-52 
+      N = 0.52799867 
+     RS = 25.27044243 
+     BV = 30
+    IBV = 100u 
+ )  

.ENDS HDSP_K213