*  
* Diode Model Produced by Altium Ltd  
* Date:  10-Mar-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-N106  
*  
* Parameters derived from information available in data sheet.  
*
*                 cathode-a
*                 |  anode-d
*                 |  |  cathode-d
*                 |  |  |  cathode-c
*                 |  |  |  |  cathode-e
*                 |  |  |  |  |  anode-e
*                 |  |  |  |  |  |  cathode-DP
*                 |  |  |  |  |  |  |  anode-DP
*                 |  |  |  |  |  |  |  |  cathode-DP
*                 |  |  |  |  |  |  |  |  |  cathode-b
*                 |  |  |  |  |  |  |  |  |  |  anode-b
*                 |  |  |  |  |  |  |  |  |  |  |  anode-c
*                 |  |  |  |  |  |  |  |  |  |  |  |  anode-a
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  cathode-a
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |
.SUBCKT HDSP_N106 2  3  4  5  6  7  8  10 11 12 13 14 15 17

DA1  15   2  dHDSP_N106
DA2  15  17  dHDSP_N106

DB   13  12  dHDSP_N106
DC   14   5  dHDSP_N106
DD    3   4  dHDSP_N106
DE    7   6  dHDSP_N106

DDP1 10   8  dHDSP_N106
DDP2 10  11  dHDSP_N106

.MODEL dHDSP_N106 D
+ (  
+    IS  = 2.08276754E-16 
+     N  = 2.17799178 
+    RS  = 0.50892350
+    BV  = 14.25
+   IBV  = 100u
+ )  

.ENDS HDSP_N106