*  
* Diode Model Produced by Altium Ltd  
* Date:  7-Apr-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-N156  
*  
* Parameters derived from information available in data sheet.  
* 
*                 cathode-a 
*                 |  anode-d 
*                 |  |  cathode-d 
*                 |  |  |  cathode-c 
*                 |  |  |  |  cathode-e 
*                 |  |  |  |  |  anode-e 
*                 |  |  |  |  |  |  cathode-DP 
*                 |  |  |  |  |  |  |  anode-DP 
*                 |  |  |  |  |  |  |  |  cathode-DP 
*                 |  |  |  |  |  |  |  |  |  cathode-b 
*                 |  |  |  |  |  |  |  |  |  |  anode-b 
*                 |  |  |  |  |  |  |  |  |  |  |  anode-c 
*                 |  |  |  |  |  |  |  |  |  |  |  |  anode-a 
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  cathode-a
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |
.SUBCKT HDSP_N156 2  3  4  5  6  7  8  10 11 12 13 14 15 17

DA1  15  2 dHDSP_N156
DA2  15 17 dHDSP_N156
DB   13 12 dHDSP_N156
DC   14  5 dHDSP_N156
DD    3  4 dHDSP_N156
DE    7  6 dHDSP_N156
DDP1 10  8 dHDSP_N156
DDP2 10 11 dHDSP_N156
 
.MODEL dHDSP_N156 D
+ (  
+    IS = 1.72301609E-14 
+     N = 2.43230682 
+    RS = 1.67295284
+    BV = 14.25
+   IBV = 100u 
+ )  

.ENDS HDSP_N156