* jjt 8/4/2002: added extra NPN transistors, node connections and changed subcircuits to transistors.
*Terminals       C1 B1 E  C2 B2  C3 B3 E3    C4 B4  E4    C5  B5  E5
.SUBCKT HFA3046B 1  2  3  4  5   6  7  8     9  10  11    12  13  14
Q1 1  2  3 NUHF
Q2 4  5  3 NUHF
Q3 6  7  8 NUHF
Q4 9  10 11 NUHF
Q5 12 13 14 NUHF
*
*HFA3046/3096/3127/3128 PSpice MODEL
*REV: 12-2-93 Added updated PNP model
*    -----  BJT MODELS  -----
**** UHFN - LE=3 WE=50  *****
*
.model NUHF NPN 
+     ( IS= 1.840E-16    XTI= 3.000E+00     EG= 1.110E+00    VAF= 7.200E+01
+      VAR= 4.500E+00     BF= 1.036E+02    ISE= 1.686E-19     NE= 1.400E+00
+      IKF= 5.400E-02    XTB= 0.000E+00     BR= 1.000E+01    ISC= 1.605E-14
+       NC= 1.800E+00    IKR= 5.400E-02     RC= 1.140E+01    CJC= 3.980E-13
+      MJC= 2.400E-01    VJC= 9.700E-01     FC= 5.000E-01    CJE= 2.400E-13
+      MJE= 5.100E-01    VJE= 8.690E-01     TR= 4.000E-09     TF= 10.51E-12    
+      ITF= 3.500E-02    XTF= 2.300E+00    VTF= 3.500E+00    PTF= 0.000E+00
+     XCJC= 9.000E-01    CJS= 1.689E-13    VJS= 9.982E-01    MJS= 0.000E+00  
+       RE= 1.848E+00     RB= 5.007E+01    RBM= 1.974E+00     KF= 0.000E+00
+       AF= 1.000E+00  )
.ENDS HFA3046B