* .: 1 = Anode .: 2 = Cathode .: 3 = Anode
.SUBCKT hfa80nc40csl 1 2 3
D1 1 2 hfa80nc40csl
D2 3 2 hfa80nc40csl

.MODEL hfa80nc40csl d
+(
+IS=2.37825e-07 RS=0.01 N=2 EG=1.04775
+XTI=2.97132 BV=400 IBV=0.0001 CJO=1.50848e-09
+VJ=0.4 M=0.453789 FC=0.5 TT=1e-09
+KF=0 AF=1
+)

.ENDS hfa80nc40csl