* .: 1 = Anode .: 2 = Cathode .: 3 = Anode
.SUBCKT hfa30pa60c 1 2 3
D1 1 2 hfa30pa60c
D2 3 2 hfa30pa60c

.MODEL hfa30pa60c d
+(
+IS=0.000690394 RS=0.0117897 N=6.00599 EG=0.6
+XTI=0.5 BV=600 IBV=0.0001 CJO=4.84089e-11
+VJ=4720.92 M=0.899999 FC=0.5 TT=1e-09
+KF=0 AF=1
+)

.ENDS hfa30pa60c