**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Dec 10, 01
* MODEL FORMAT: SPICE3
* 1 = A1, 2 = K, 3 = A2
.SUBCKT hfb35hb20c 1 2 3
D1 1 2 Dhfb35hb20c
D2 3 2 Dhfb35hb20c

.MODEL Dhfb35hb20c d
+(
+		IS=3.09007e-07
+		RS=0.012861
+		N=2
+		EG=1.3
+		XTI=3.0157
+		BV=200
+		IBV=0.0001
+		CJO=1.14597e-09
+		VJ=0.4
+		M=0.389409
+		FC=0.5
+		TT=1e-09
+		KF=0
+		AF=1
+)

.ENDS hfb35hb20c